US07618990B2
Sodium methoxide (0.81 g, 15 mmol) was dissolved in methanol (150 mL) and 4-bromobenzonitrile (27.3 g, 150 mmol) was added and the mixture was stirred at 25° C. for 24 h. Solid ammonium chloride (8.1 g, 150 mmol) was added and the mixture was stirred for an additional 24 h. The mixture was filtered, the solid was washed with methanol and ether, and the filtrate was combined and concentrated. The white residue was collected and washed thoroughly with ether and dried under vacuum to give 4-bromobenzenecarboximidamide hydrochloride (16 g, 54%) as a white solid. HRMS: calcd for C7H7BrN2+H+, 198.98654; found (ESI, [M+H]+), 198.9868; Analytical HPLC: purity 98.4% at 246 nm, 3.4 min; 97.8% at 210-370 nm, 3.4 min; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN+MeOH) for 10 min, hold 4 min.

reactant | Sodium methoxide | 15 mmol, 0.81 g | C[O-].[Na+]
reactant | 4-bromobenzonitrile | 150 mmol, 27.3 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | ammonium chloride | 150 mmol, 8.1 g | [Cl-].[NH4+]
solvent | methanol | 150 mL | CO | CH4O
product | 4-bromobenzenecarboximidamide hydrochloride | 16 g, 54% | Cl.BrC1=CC=C(C=C1)C(N)=N | InChI=1S/C7H7BrN2.ClH/c8-6-3-1-5(2-4-6)7(9)10;/h1-4H,(H3,9,10);1H
